US04867913
12α-Mesyloxypregna-1,4-diene-3,20-dione (3.0 g) was dissolved in 60 ml of hexamethylphosphoramide. To the solution was added 7.2 g of potassium acetate, and the mixture was stirred at 120° C. for 5 hours. To the reaction mixture was added 300 ml of diluted hydrochloric acid, and the whole mixture was extracted with three 200 ml portions of benzene. The extracts were combinedly washed in sequence with diluted hydrochloric acid and water, and dried over anhydrous magnesium sulfate. Low-boiling fractions were distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: acetone-n-hexane, 4:6 by volume) to give 1.6 g of pregna-1,4,11(12)-triene-3,20-dione as crystals. The physical properties for the obtained crystal were as follows:

reactant | 12α-Mesyloxypregna-1,4-diene-3,20-dione | 3.0 g | S(=O)(=O)(C)O[C@H]1C[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@@]12C)=O)C | C22H30O5S
reactant | potassium acetate | 7.2 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | hexamethylphosphoramide | 60 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | pregna-1,4,11(12)-triene-3,20-dione | 1.6 g | CC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3C=C[C@]12C)=O)=O | C21H26O2
